US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (43.1 mg, 0.102 mmol) and 4-fluorophenyl isocyanate (Aldrich, 71.0 mg, 0.512 mmol) in CH2Cl2 (5 mL) was stirred at rt for 24 hrs. The reaction mixture was then concentrated and purified by flash column to give (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-fluoro-phenyl)-amide (45.6 mg, 79.8%). HRMS (ES+) m/z Calcd for C29H26Cl2F3N3O+H [(M+H)+]: 560.1478; Found: 560.1479.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.102 mmol, 43.1 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 4-fluorophenyl isocyanate | 0.512 mmol, 71.0 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-fluoro-phenyl)-amide | 45.6 mg, 79.8% | FC1=CC=C(C=C1)NC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C29H26Cl2F3N3O
